US06479501B2
1,4-Dihydro-1′-(3-methoxyphenyl)methyl-4-methylspiro[cyclopent[b]indole-3(2H), 4′piperidine]
A solution of 1,4-dihydro4-methylspiro[cyclopent[b]indole-3(2H), 4′-piperidine] (2.5 g) and triethylamine (2.9 ml) in dichloromethanc (100 ml) and 3-(chloromethyl)anisole (1.95 g) was stirred overnight at ambient temperature, under nitrogen. Saturated sodium chloride solution was added and the mixture was extracted with dichloromethane. The extracts were dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated in vacuo. The residue was flashed chromatographed (silica gel), eluting with 10% anhydrous acetone/dichloromethane. The appropriate fractions were collected and concentrated to give 1.3 g (35%) of product, mp 100-101° C.

reactant | 1,4-dihydro4-methylspiro[cyclopent[b]indole-3(2H), 4′-piperidine] | 2.5 g | CN1C2=C(C=3C=CC=CC13)CCC21CCNCC1 | C16H20N2
reactant | 3-(chloromethyl)anisole | 1.95 g | ClCC=1C=C(C=CC1)OC | C8H9ClO
reactant | sodium chloride | [Cl-].[Na+]
solvent | triethylamine | 2.9 ml | C(C)N(CC)CC | C6H15N
product | 1,4-Dihydro-1′-(3-methoxyphenyl)methyl-4-methylspiro[cyclopent[b]indole-3(2H), 4′piperidine] | 1.3 g, 35% | COC=1C=C(C=CC1)CN1CCC2(CC1)CCC1=C2N(C=2C=CC=CC12)C | C24H28N2O
